US06388146B1
First, 80 ml of ethanol containing 7.18 g of 4-benzyloxyphenylboronic acid obtained from the synthesis (10-b) above dissolved therein, 50 ml of benzene containing 5.00 g of 1-bromo-4-cyclohexylbenzene dissolved therein, 21.0 ml of a sodium carbonate aqueous solution with a concentration of 2 mol/l, and 0.24 g of tetrakis(triphenylphosphine)palladium(0) were put in an argon-replaced 200 ml flask, and stirred under reflux for eight hours. After the reaction, water and toluene were added to the reaction solution for extraction. The resultant toluene layer was washed with a saturated brine and dried with sodium sulfate. The solvent was then distilled off. The residue was purified by silica gel column chromatography (eluent:toluene/hexane=1/4), to obtain 5.04 g (Y: 70.1%) of 4-benzyloxy-4′-cyclohexylbiphenyl. The purity of the resultant compound was 98.3% as measured by GC.

reactant | benzene | 50 ml, 5.00 g | C1=CC=CC=C1 | C6H6
reactant | 1-bromo-4-cyclohexylbenzene | BrC1=CC=C(C=C1)C1CCCCC1 | C12H15Br
reactant | sodium carbonate | 21.0 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.24 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-benzyloxy-4′-cyclohexylbiphenyl | 5.04 g, 70.1% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCCCC1 | C25H26O
